### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): locally directed gluing

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 1]
```diff
@@ -255,6 +255,16 @@ instance hasCoeToTopCat : CoeOut Scheme TopCat where
 unif_hint forgetToTop_obj_eq_coe (X : Scheme) where ⊢
   forgetToTop.obj X ≟ (X : TopCat)
 
+/-- The forgetful functor from `Scheme` to `Type`. -/
+nonrec def forget : Scheme.{u} ⥤ Type u := Scheme.forgetToTop ⋙ forget TopCat
+
+/-- forgetful functor to `Scheme` is the same as coercion -/
+unif_hint forget_obj_eq_coe (X : Scheme) where ⊢
+  forget.obj X ≟ (X : Type*)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:263]: Does it not suffice to make `forget` an `abbrev`? This might also make the instances above superfluous.

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 2]
```diff
@@ -436,6 +442,382 @@ theorem hom_ext {Y : Scheme} (f₁ f₂ : X ⟶ Y) (h : ∀ x, 𝒰.map x ≫ f
...
+    ↖       ↗
+      xₗ ∈ Fₗ
+```
+that commutes with it.
+-/
+class _root_.CategoryTheory.Functor.IsLocallyDirected
+    {J : Type*} [Category J] (F : J ⥤ Type*) : Prop where
+  cond (F) : ∀ {i j k} (fi : i ⟶ k) (fj : j ⟶ k) (xi : F.obj i) (xj : F.obj j),
+    F.map fi xi = F.map fj xj → ∃ (l : J) (fli : l ⟶ i) (flj : l ⟶ j) (x : _),
+      F.map fli x = xi ∧ F.map flj x = xj
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean:495]: I am not sure this is the right place for this. This will also be useful when gluing other sorts of geometric objects.

File: Mathlib/AlgebraicGeometry/Limits.lean [hunk 3]
```diff
@@ -299,28 +199,18 @@ lemma disjoint_opensRange_sigmaι (i j : ι) (h : i ≠ j) :
   obtain ⟨rfl⟩ := (sigmaι_eq_iff _ _ _ _ _).mp hy
   cases h rfl
 
-lemma exists_sigmaι_eq [Small.{u} σ] (x : (∐ g :)) : ∃ i y, (Sigma.ι g i).base y = x := by
-  obtain ⟨ι, ⟨e⟩⟩ := Small.equiv_small (α := σ)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Limits.lean:303]: Could you please add the analogue of this for colimits of locally directed functors?

File: Mathlib/AlgebraicGeometry/Limits.lean [hunk 4]
```diff
@@ -299,28 +199,18 @@ lemma disjoint_opensRange_sigmaι (i j : ι) (h : i ≠ j) :
...
-  covers x := (exists_sigmaι_eq g x).choose_spec
+def sigmaOpenCover [Small.{u} σ] : (∐ g).OpenCover :=
+  ((Scheme.coverOfIsIso (Sigma.reindex (equivShrink σ).symm g).hom).bind
+    fun i ↦ Scheme.IsLocallyDirected.openCover _).copy σ g (Sigma.ι g)
+    ((Equiv.uniqueSigma fun (_ : Unit) ↦ _).trans
+      (discreteEquiv.trans (equivShrink σ).symm)).symm
+    (fun i ↦ ((Discrete.functor g).mapIso (eqToIso (by simp)))) fun i ↦ by
+  dsimp
+  rw [Sigma.ι_reindex_hom]
+  simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Limits.lean:213]: Given a general version of `exists_sigmaι_eq` as suggested above, I think the old version would be better.

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 5]
```diff
@@ -436,6 +442,382 @@ theorem hom_ext {Y : Scheme} (f₁ f₂ : X ⟶ Y) (h : ∀ x, 𝒰.map x ≫ f
...
+      α ≫ pullback.fst _ _ = (F.map fi).isoOpensRange.hom ≫
+        (F.obj i).homOfLE (le_iSup_of_le ⟨l, _, fj⟩ le_rfl) ∧
+      α ≫ pullback.snd _ _ = (F.map fi).isoOpensRange.hom ≫
+        (F.obj i).homOfLE (le_iSup_of_le ⟨l, _, fk⟩ le_rfl) ∧
+      α.base z = x := by
+  obtain ⟨k₁, y₁, hy₁⟩ := mem_iSup.mp ((pullback.fst (C := Scheme) _ _).base x).2
+  obtain ⟨k₂, y₂, hy₂⟩ := mem_iSup.mp ((pullback.snd (C := Scheme) _ _).base x).2
+  obtain ⟨l, hli, hlk, z, rfl, rfl⟩ :=
+    Functor.IsLocallyDirected.cond (F ⋙ forget) k₁.2.1 k₂.2.1 y₁ y₂
+      (by simpa [hy₁, hy₂] using congr($(pullback.condition (f := (V F i j).ι)).base x))
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean:542]: Could you please add a lemma `CategoryTheory.Functor.exists_map_eq_of_isLocallyDirected` and then use dot notation here?

**Review by chrisflav — COMMENTED** [review]
This looks very nice, I'll review more later, have to switch trains.

File: Mathlib/AlgebraicGeometry/Limits.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Limits.lean:303]: I think this is just an implementation detail and the intended API is `Cover.exists_eq`?

File: Mathlib/AlgebraicGeometry/Scheme.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Scheme.lean:263]: You will probably need to make `Scheme.forgetToTop` and `CategoryTheory.forget` to be reducible to work?

File: Mathlib/AlgebraicGeometry/Limits.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Limits.lean:303]: I am not convinced we want this lemma and I think we should just use `Cover.exists_eq`.

File: Mathlib/AlgebraicGeometry/Limits.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Limits.lean:213]: The complication here is because of the `[Small.{u} σ]`.

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Limits.lean:213]: I think this should be solved by generalizing the universes in the locally directed gluing part. The colimit exists whenever we have `[Small.{u} J]`, I have done the generalization in b5c0a6c146c5439ca1dd7e098c56d5f88eb66c01 (depending on #25130). Feel free to cherry-pick that commit.

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 6]
```diff
@@ -441,6 +448,356 @@ theorem ι_glueMorphisms (𝒰 : OpenCover.{v} X) {Y : Scheme} (f : ∀ x, 𝒰.
...
+lemma fst_inv_eq_snd_inv
+    {i j : J} (k₁ k₂ : (k : J) × (k ⟶ i) × (k ⟶ j)) {U : (F.obj i).Opens}
+    (h₁ : (F.map k₁.2.1).opensRange ≤ U) (h₂ : (F.map k₂.2.1).opensRange ≤ U) :
+    pullback.fst ((F.obj i).homOfLE h₁) ((F.obj i).homOfLE h₂) ≫
+      (F.map k₁.2.1).isoOpensRange.inv ≫ F.map k₁.2.2 =
+    pullback.snd ((F.obj i).homOfLE h₁) ((F.obj i).homOfLE h₂) ≫
+      (F.map k₂.2.1).isoOpensRange.inv ≫ F.map k₂.2.2 := by
+  apply Scheme.hom_ext_of_forall
+  intro x
+  obtain ⟨l, hli, hlj, y, hy₁, hy₂⟩ := Functor.IsLocallyDirected.cond (F ⋙ forget) k₁.2.1 k₂.2.1
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean]:
```suggestion
  obtain ⟨l, hli, hlj, y, hy₁, hy₂⟩ := (F ⋙ forget).exists_map_eq_of_isLocallyDirected k₁.2.1 k₂.2.1
```

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 7]
```diff
@@ -441,6 +448,356 @@ theorem ι_glueMorphisms (𝒰 : OpenCover.{v} X) {Y : Scheme} (f : ∀ x, 𝒰.
...
+  simp [Scheme.Opens.iSupOpenCover, Iso.inv_comp_eq, Subsingleton.elim k.2.1 k.2.2]
+
+variable [Small.{u} J]
+
+local notation3:max "↓"j:arg => Equiv.symm (equivShrink _) j
+
+/-- (Implemetation detail)
+The glue data associated to a locally directed diagram.
+
+One usually do not want to use this directly, and instead use the generic `colimit` API.
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean]:
```suggestion
One usually does not want to use this directly, and instead use the generic `colimit` API.
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Gluing.lean]: (and below)

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 8]
```diff
@@ -441,6 +448,356 @@ theorem ι_glueMorphisms (𝒰 : OpenCover.{v} X) {Y : Scheme} (f : ∀ x, 𝒰.
...
+    simp only [cocone, Functor.mapCocone_ι_app, Scheme.comp_toLRSHom,
+      forgetToLocallyRingedSpace_map, ← GlueData.ι_isoLocallyRingedSpace_inv]
+    simpa [CategoryTheory.GlueData.ι] using s.w _
+  uniq s m hm := by
+    rw [← Iso.inv_comp_eq]
+    refine Multicoequalizer.hom_ext _ _ _ fun i ↦ ?_
+    dsimp
+    simp [cocone, ← hm, glueDataι_naturality,
+      ← GlueData.ι_isoLocallyRingedSpace_inv, -ι_gluedIso_inv_assoc, -ι_gluedIso_inv]
+    rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean]: Maybe squeeze the `simp` or get rid of the `rfl`?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Gluing.lean]: I think `simp` followed by `rfl` is fine? Though I'll investigate if I can get rid of the `rfl`.

File: Mathlib/AlgebraicGeometry/Scheme.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Scheme.lean]: I don't know all the consequences of `unif_hint`s, but since this is analogous to the `unif_hint`s such as `(forget CommRingCat).obj R = R.carrier`, I suppose it is fine. Could you add an explanation to the docstring why this `unif_hint` is needed?

**Comment by chrisflav** [comment]
Thanks again!

maintainer delegate

File: Mathlib/AlgebraicGeometry/Scheme.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/AlgebraicGeometry/Scheme.lean]: Yes please, an explanation would be nice.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by riccardobrasca** [comment]
!bench

**Comment by erdOne** [comment]
bors merge
